US06011174
(2) Preparation of 3-(4-phenoxyphenyl)-5-phenylpentan-2-one
11.2 g of 60% oily sodium hydride was suspended in 200 ml of dimethylformamide, and a solution of 56.0 g of 4-phenoxyphenylacetone in 100 ml of dimethylformamide, was added under cooling with ice with stirring, followed by stirring at the same temperature for 5 minutes and at room temperature for 30 minutes. Then, the reaction solution was again cooled with ice, and 52.0 g of phenethyl bromide was added. The reaction solution was gradually returned to room temperature and then stirred for 30 minutes, and water was added to the reaction solution, followed by extraction with ethyl ether. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to obtain 50.6 g (yield: 61%) of the above identified compound as a pale yellow oily substance.

reactant | sodium hydride | 11.2 g | [H-].[Na+]
reactant | 4-phenoxyphenylacetone | 56.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(C)=O | C15H14O2
reactant | phenethyl bromide | 52.0 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | water | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-(4-phenoxyphenyl)-5-phenylpentan-2-one | yield: 61% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(C)=O)CCC1=CC=CC=C1 | C23H22O2
